US06180622B2
(1R,5S,6S)-6-((1R)-1-Hydroxyethyl)-2-[(3S,5S)-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-2-yl)methyl]pyrrolidin-3-yl]thio-1-methylcarbapen-2-em-3-carboxylic acid (stereoisomer B)
Tetrakis(triphenylphosphine)palladium(0) (30.7 mg) is added to a solution of 51.6 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-2-yl)methyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate (stereoisomer B) described in Example 16-a) and 0.057 ml of N-methylaniline in a mixture of 2.0 ml of dry dichloromethane and 0.5 ml of DMF, and the mixture is stirred in an argon atmosphere at room temperature for 1.5 hr. Ethyl acetate (10 ml) is added thereto, and the resultant precipitate is further washed twice with 5 ml of ethyl acetate and dried in vacuo to give a yellow powder. This powder is then purified by column chromatography on Cosmosil 40C18-PREP (water-methanol) to give 0.83 mg of the title compound as a colorless flocculent material.

reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-2-yl)methyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 51.6 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1C(C1=CN2C(S1)=CN=C2)O)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C27H32N4O7S2
reactant | N-methylaniline | 0.057 ml | CNC1=CC=CC=C1 | C7H9N
reactant | Ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 30.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1R,5S,6S)-6-((1R)-1-Hydroxyethyl)-2-[(3S,5S)-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-2-yl)methyl]pyrrolidin-3-yl]thio-1-methylcarbapen-2-em-3-carboxylic acid | 0.83 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@@H]2CN[C@@H](C2)C(C2=CN3C(S2)=CN=C3)O)C(=O)O)C1=O | C20H24N4O5S2
